US06103905
To a 25 mL round bottom flask containing a solution of crude indole-3-carboxaldehyde (4.5 mmol) in 10 mL of triethylamine was added 1.3 g (6.7 mmol) of tosyl chloride. The reaction mixture was heated to 95° C. for 4 h. The reaction mixture was quenched by pouring into 10 mL of ice water and filtered. The solid was washed with water (3×10 mL), triterated with ether (25 mL), and dried in vacuio to give N-tosyl-indole-3-carboxaldehyde (85-90% yield).

reactant | indole-3-carboxaldehyde | 4.5 mmol | N1C=C(C2=CC=CC=C12)C=O | C9H7NO
reactant | tosyl chloride | 6.7 mmol, 1.3 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | triethylamine | 10 mL | C(C)N(CC)CC | C6H15N
product | N-tosyl-indole-3-carboxaldehyde | 85-90% yield | S(=O)(=O)(C1=CC=C(C)C=C1)N1C=C(C2=CC=CC=C12)C=O | C16H13NO3S
